US05942521
In accordance with EXAMPLE 15, using 7-nitro-3-acetoxy-4-hydroxy-1-methyl-2(1H)-quinolinone, allyl bromide was used as an alkylating agent instead of methyl iodide, 7-nitro-3-(2-propenyloxy)-4-hydroxy-1-methyl-2(1H)-quinolinone was provided. In the following, the spectrum data was shown.

reactant | 7-nitro-3-acetoxy-4-hydroxy-1-methyl-2(1H)-quinolinone | [N+](=O)([O-])C1=CC=C2C(=C(C(N(C2=C1)C)=O)OC(C)=O)O | C12H10N2O6
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | methyl iodide | CI | CH3I
product | 7-nitro-3-(2-propenyloxy)-4-hydroxy-1-methyl-2(1H)-quinolinone | [N+](=O)([O-])C1=CC=C2C(=C(C(N(C2=C1)C)=O)OCC=C)O | C13H12N2O5
